US07960567B2
Methyl 2-(4-(4-amino-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-5-yloxy)-3-methoxyphenyl)acetate (22.7).
To a solution of methyl 2-(3-methoxy-4-(4-nitro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-5-yloxy)phenyl)acetate (46 mg, 0.09 mmol) was added a catalytic amount of 10% palladium on carbon. The resulting mixed was stirred under an atmosphere of hydrogen for 45 min. After that time the reaction mixture was filtered through celite and concentrated under reduced pressure to give the product as a pale solid. 1H NMR (400 MHz) (CDCl3) δ 7.97 (s, 1H); 7.08 (d, J=8.8, 1H); 6.93 (d, J=1.8, 1H); 6.91 (d, J=8.8, 1H); 6.76 (dd, J=1.8, 8.2, 1H); 6.65 (d, J=8.2, 1H); 5.70 (s, 2H); 4.28 (bs, 2H); 3.95 (s, 3H); 3.71 (s, 3H); 4.58 (m, 4H); 0.92 (t, J=8.2, 2H), 0.0 (s, 9H).

reactant | methyl 2-(3-methoxy-4-(4-nitro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-5-yloxy)phenyl)acetate | 0.09 mmol, 46 mg | COC=1C=C(C=CC1OC=1C(=C2C=NN(C2=CC1)COCC[Si](C)(C)C)[N+](=O)[O-])CC(=O)OC | C23H29N3O7Si
catalyst | palladium on carbon | [Pd] | Pd
product | Methyl 2-(4-(4-amino-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indazol-5-yloxy)-3-methoxyphenyl)acetate | NC1=C2C=NN(C2=CC=C1OC1=C(C=C(C=C1)CC(=O)OC)OC)COCC[Si](C)(C)C | C23H31N3O5Si
